US08357711B2
4-({(2S)-2-[(3-chlorophenoxy)methyl]pyrrolidin-1-yl}carbonyl)-N-1,3-thiazol-2-ylbenzenesulfonamide
A mixture of 4-iodo-N-1,3-thiazol-2-ylbenzenesulfonamide (Preparation 98, 150 mg, 0.41 mmol), (2S)-2-(3-chloro-phenoxymethyl)-pyrrolidine hydrochloride (Preparation 90, 430 mg, 2.0 mmol), hexacarbonylmolybdenum (50 mg, 0.2 mmol), palladium(II) acetate (4 mg, 0.02 mmol), and sodium carbonate (130 mg, 1.2 mmol) in water (0.82 mL, 45 mmol) was heated 20 min at 110° C. in the microwave. The reaction mixture was diluted with 1 N HCl and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was taken up in 1.2 mL of DMSO, filtered, and purified via HPLC (Prep: Phenomenex 250×30.0 mm 15 micron C18 column. 40 mL/min. Gradient 15% B to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8 TFA).

reactant | 4-iodo-N-1,3-thiazol-2-ylbenzenesulfonamide | 0.41 mmol, 150 mg | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7IN2O2S2
reactant | (2S)-2-(3-chloro-phenoxymethyl)-pyrrolidine hydrochloride | 2.0 mmol, 430 mg | Cl.ClC=1C=C(OC[C@H]2NCCC2)C=CC1
reactant | sodium carbonate | 1.2 mmol, 130 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 45 mmol, 0.82 mL | O | H2O
solvent | HCl | 1 N | Cl | ClH
catalyst | hexacarbonylmolybdenum | 0.2 mmol, 50 mg | C(=O)=[Mo](=C=O)(=C=O)(=C=O)(=C=O)=C=O
catalyst | palladium(II) acetate | 0.02 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-({(2S)-2-[(3-chlorophenoxy)methyl]pyrrolidin-1-yl}carbonyl)-N-1,3-thiazol-2-ylbenzenesulfonamide | ClC=1C=C(OC[C@H]2N(CCC2)C(=O)C2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)C=CC1 | C21H20ClN3O4S2
